US08633212B2
A mixture of 6-bromo-2,3-dihydro-1H-inden-1-one (400 mg, 1.9 mmol) and 1,8-bis(bromomethyl)naphthalene (596 mg, 1.9 mmol) in THF (20 mL) was added NaH (152 mg, 3.8 mmol) at room temperature, the mixture was heated under reflux for 2 h. The mixture was quenched with water, concentrated, then extracted with CH2Cl2, washed with brine, dried over Na2SO4 and concentrated to give 6-bromo-1′,3′-dihydrospiro[indene-2,2′-phenalen]-1(3H)-one (386 mg, 56%). 1H-NMR (CDCl3): 2.79 (d, 2H), 3.50 (d, 2H), 7.12 (m, 1H), 7.18 (m, 2H), 7.36 (m, 2H), 7.60 (m, 1H), 7.71 (m, 1H), 7.92 (m, 1H).

reactant | 6-bromo-2,3-dihydro-1H-inden-1-one | 1.9 mmol, 400 mg | BrC1=CC=C2CCC(C2=C1)=O | C9H7BrO
reactant | 1,8-bis(bromomethyl)naphthalene | 1.9 mmol, 596 mg | BrCC1=CC=CC2=CC=CC(=C12)CBr | C12H10Br2
reactant | NaH | 3.8 mmol, 152 mg | [H-].[Na+]
solvent | THF | 20 mL | C1CCOC1 | C4H8O
product | 6-bromo-1′,3′-dihydrospiro[indene-2,2′-phenalen]-1(3H)-one | 386 mg, 56% | BrC1=CC=C2CC3(CC=4C=CC=C5C=CC=C(C3)C45)C(C2=C1)=O | C21H15BrO
